US09289419B2
5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(3-(dimethylcarbamoyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-6-yl)pyrazolo[1,5-a]pyridine-3-carboxamide
To a stirred solution of 6-(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamido)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxylic acid (45 mg, 0.08 mmol) in dry DMF (1 mL) was added EDCI (28.7 mg, 0.09 mmol), HOBt (12 mg, 0.88 mmol) and stirring was continued at 25° C. for 15 min. To the above reaction added dimethylamine hydrochloride (7.8 mg, 0.1 mmol) followed by DIPEA (0.05 ml, 0.26 mmol), stirring was continued at 25° C. for 16 h. Reaction mixture was diluted with DCM (50 mL), washed it with water followed by brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford title compound as white solid. MS (ESI): m/z 534.2 (M+H).

reactant | 6-(5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamido)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.08 mmol, 45 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)NC2CCC=1N(C2)N=CC1C(=O)O | C26H24F2N6O3
reactant | EDCI | 0.09 mmol, 28.7 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.88 mmol, 12 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dimethylamine hydrochloride | 0.1 mmol, 7.8 mg | Cl.CNC
reactant | DIPEA | 0.26 mmol, 0.05 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(3-(dimethylcarbamoyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-6-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)NC2CCC=1N(C2)N=CC1C(N(C)C)=O | C28H29F2N7O2
